US07189741B2
Preparation of 2-(2-{4-[5-methoxy-1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid
This compound was prepared following the procedure described in example 87 (part E) starting with 1.7 g (5 mmol) of 5-methoxy-3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole and 1.2 g (5.5 mmol) of 2-(2-chloro-ethoxy)-benzoic acid methyl ester. After standard work-up and purification by flash chromatography, 0.6 g (24% of yield) of the expected acid were obtained.

reactant | 5-methoxy-3-piperidin-4-yl-1-(2-thiophen-3-yl-ethyl)-1H-indole | 5 mmol, 1.7 g | COC=1C=C2C(=CN(C2=CC1)CCC1=CSC=C1)C1CCNCC1 | C20H24N2OS
reactant | 2-(2-chloro-ethoxy)-benzoic acid methyl ester | 5.5 mmol, 1.2 g | COC(C1=C(C=CC=C1)OCCCl)=O | C10H11ClO3
product | 2-(2-{4-[5-methoxy-1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidin-1-yl}-ethoxy)-benzoic acid | COC=1C=C2C(=CN(C2=CC1)CCC1=CSC=C1)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C29H32N2O4S
